US07235559B1
Platinum oxide (60 mg, 0.22 mmol) was added to a solution 2-(N-2-chlorobenzoyl)amino-5-nitropyrimidine (278 mg, 1.0 mmol) in ethanol (1 ml) and ethyl acetate (10 ml) at ambient temperature and the reaction stirred for 3 hours under an atmosphere of hydrogen. The reaction was filtered through a pad of celite and the solvents were evaporated in vacuo. Purification by flash chromatography on silica gel, eluting with 5% methanol in ethyl acetate yielded 2-(N-2-chlorobenzoyl)amino-5-aminopyrimidine (121 mg, 50% yield) as brown solid:

reactant | 2-(N-2-chlorobenzoyl)amino-5-nitropyrimidine | 1.0 mmol, 278 mg | ClC1=C(C(=O)NC2=NC=C(C=N2)[N+](=O)[O-])C=CC=C1 | C11H7ClN4O3
solvent | ethanol | 1 ml | C(C)O | C2H6O
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
catalyst | Platinum oxide | 0.22 mmol, 60 mg | [Pt]=O
product | 2-(N-2-chlorobenzoyl)amino-5-aminopyrimidine | 121 mg, 50% yield | ClC1=C(C(=O)NC2=NC=C(C=N2)N)C=CC=C1 | C11H9ClN4O
